US06835732B2
N-[4-Methoxy-7-(2-morpholin-4-yl-thiazol-4-yl)-benzothiazol-2-yl]-4-pyrrolidin-1-yl-methyl-benzamide
0.032 g pyrrolidine (0.00045 Mol) and 0.075 g (4-chloromethyl-N-[4-methoxy-7-(2-morpholin-4-yl-thiazol-4-yl)-benzothiazol-2-yl]-benzamide (0.00015 Mol) dissolved in THF (2 ml) were heated to reflux for 1 h. After cooling to room temperature and evaporation of the solvent the residue was triturated with water (7 ml). A precipitation formed, which was filtered, washed with water and dried yielding the title product as an off-white solid (87%); F.p.: 120-130° C.

reactant | pyrrolidine | 0.00045 Mol, 0.032 g | N1CCCC1 | C4H9N
reactant | 4-chloromethyl-N-[4-methoxy-7-(2-morpholin-4-yl-thiazol-4-yl)-benzothiazol-2-yl]-benzamide | 0.00015 Mol | ClCC1=CC=C(C(=O)NC=2SC3=C(N2)C(=CC=C3C=3N=C(SC3)N3CCOCC3)OC)C=C1 | C23H21ClN4O3S2
reactant | THF | 2 ml | C1CCOC1 | C4H8O
product | N-[4-Methoxy-7-(2-morpholin-4-yl-thiazol-4-yl)-benzothiazol-2-yl]-4-pyrrolidin-1-yl-methyl-benzamide | 87% | COC1=CC=C(C2=C1N=C(S2)NC(C2=C(C=C(C=C2)N2CCCC2)C)=O)C=2N=C(SC2)N2CCOCC2 | C27H29N5O3S2
